US06495683B2
N-(4-Chlorobenzyl)-2-(4-morpholinylmethyl)-4-oxo-7-(4-pyridinylmethyl)-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide
1,4-Diethylazodicarboxylate (205 μL) is added to a solution of N-(4-chlorobenzyl)-4-hydroxy-2-(4-morpholinylmethyl)thieno[2,3-b]pyridine-5-carboxamide (418 mg) from Example No. 41, triphenylphospine (341 mg), and 4-pyridylmethanol (273 mg) in THF (10 mL). The reaction mixture is stirred at room temperature for 20 h and then poured into 0.5 N aqueous NaOH solution (25 mL). The mixture is extracted with EtOAc (3×25 mL). The organic layer is dried (Na2SO4) and concentrated. The crude product is purified by column chromatography (CH2Cl2/methanol, 50/1; 20/1) followed by recrystallization from ethanol to afford 107 mg (21%) of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-2-(4-morpholinylmethyl)thieno[2,3-b]pyridine-5-carboxamide | 418 mg | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)CN3CCOCC3)O)C=C1 | C20H20ClN3O3S
reactant | triphenylphospine | 341 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-pyridylmethanol | 273 mg | N1=CC=C(C=C1)CO | C6H7NO
reactant | NaOH | 0.5 N, 25 mL | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(4-Chlorobenzyl)-2-(4-morpholinylmethyl)-4-oxo-7-(4-pyridinylmethyl)-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 107 mg, 21% | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CC2=CC=NC=C2)SC(=C3)CN3CCOCC3)=O)C=C1 | C26H25ClN4O3S
